US07547697B2
3-tert-Butyl-6,6-dimethyl-6,7-dihydro-5H-cyclopenta[c]pyridazine
white crystalline solid. MS (ESI): 205.0 (MH+). Prepared from 4,4-dimethyl-cyclopentane-1,2-dione, (3,3-dimethyl-2-oxo-butyl)-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | 4,4-dimethyl-cyclopentane-1,2-dione | CC1(CC(C(C1)=O)=O)C | C7H10O2
reactant | (3,3-dimethyl-2-oxo-butyl)-phosphonic acid dimethyl ester | COP(OC)(=O)CC(C(C)(C)C)=O | C8H17O4P
reactant | hydrazine monohydrate | O.NN
product | 3-tert-Butyl-6,6-dimethyl-6,7-dihydro-5H-cyclopenta[c]pyridazine | C(C)(C)(C)C1=CC2=C(N=N1)CC(C2)(C)C | C13H20N2
